US08106070B2
Methylmagnesium bromide (3 M in diethyl ether) (2 eq) was added to a 0° C. solution of 4-(2,2-dimethylpropyl)-N,N-dimethyl-2-{[4-(1-{[2-(trimethylsilyl)-ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]acetyl}-1H-imidazole-1-sulfonamide (1 eq) in tetrahydrofuran (3 mL). After stirring at 0° C. for 30 min, the reaction mixture was quenched with saturated aqueous ammonium chloride and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1-{[2-(trimethylsilyl)-ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide which was used in the subsequent step without further purification.

reactant | Methylmagnesium bromide | 3 M, 2 eq | C[Mg]Br
reactant | 4-(2,2-dimethylpropyl)-N,N-dimethyl-2-{[4-(1-{[2-(trimethylsilyl)-ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]acetyl}-1H-imidazole-1-sulfonamide | 1 eq | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1C2=C(CCC1)C=NN2COCC[Si](C)(C)C)=O)(C)C | C30H46N6O4SSi
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1-{[2-(trimethylsilyl)-ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1C2=C(CCC1)C=NN2COCC[Si](C)(C)C)(C)O)(C)C | C31H50N6O4SSi
